US04716168
A. 2-(2-Furyl)-5-nitrobenzimidazole
A mixture of 1,2-diamino-4-nitrobenzene (31 g, 0.2 mol) and 2-furancarboxaldehyde (25 g, 0.26 mol) in 2-propanol is treated with p-benzoquinone (24 g, 0.22 mol). The reaction mixture is heated under reflux for 2 h. The reaction solution is diluted with water to precipitate the product. After drying, the crude product weighs 46 g (100%). Recrystllization from nitromethane provides an analytical sample which melts at 228°-229° C. Anal. Calcd for C11H7N3O3 ; C, 57.64; H, 3.08; N, 18.34. Found: C, 57.55; H, 3.04; N, 18.53.

reactant | 1,2-diamino-4-nitrobenzene | 0.2 mol, 31 g | NC1=C(C=C(C=C1)[N+](=O)[O-])N | C6H7N3O2
reactant | 2-furancarboxaldehyde | 0.26 mol, 25 g | O1C(=CC=C1)C=O | C5H4O2
reactant | p-benzoquinone | 0.22 mol, 24 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | 2-propanol | CC(C)O | C3H8O
solvent | water | O | H2O
product | 2-(2-Furyl)-5-nitrobenzimidazole | O1C(=CC=C1)C=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C11H7N3O3
